US09422271B2
A mixture of 5-((tert-butyldimethylsilyloxy)methyl)-2-chloro-N-(5-cyclopropyl-1H-pyrazol-3-yl)pyrimidin-4-amine (200 mg, 0.53 mmol, 1.0 eq), phenylboronic acid (90.5 mg, 0.742 mmol, 1.4 eq), Pd2(dba)3 (48.5 mg, 0.053 mmol, 0.1 equiv.), tricyclohexylphosphine (35.7 mg, 0.127 mmol, 0.24 equiv.), K3PO4 (450 mg, 2.12 mmol, 4 eq) in 1,4-dioxane (20 mL) and water (4 mL) was stirred at 100° C. under a nitrogen atmosphere for 15 h. The reaction mixture was allowed to cool to room temperature and concentrated to give a residue, which was purified by silica gel chromatography (CH2Cl2/MeOH 500:1 to 100:1 as eluent) to afford 5-((tert-butyldimethylsilyloxy)methyl)-N-(5-cyclopropyl-1H-pyrazol-3-yl)-2-phenylpyrimidin-4-amine (50 mg, 22.5%) as a solid. LC-MS (m/z)=422.2 [M+H]+.

reactant | 5-((tert-butyldimethylsilyloxy)methyl)-2-chloro-N-(5-cyclopropyl-1H-pyrazol-3-yl)pyrimidin-4-amine | 0.53 mmol, 200 mg, 1.0 eq | [Si](C)(C)(C(C)(C)C)OCC=1C(=NC(=NC1)Cl)NC1=NNC(=C1)C1CC1 | C17H26ClN5OSi
reactant | phenylboronic acid | 0.742 mmol, 90.5 mg, 1.4 eq | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | tricyclohexylphosphine | 0.127 mmol, 35.7 mg, 0.24 equiv. | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | K3PO4 | 2.12 mmol, 450 mg, 4 eq | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 4 mL | O | H2O
catalyst | Pd2(dba)3 | 0.053 mmol, 48.5 mg, 0.1 equiv. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-((tert-butyldimethylsilyloxy)methyl)-N-(5-cyclopropyl-1H-pyrazol-3-yl)-2-phenylpyrimidin-4-amine | 50 mg, 22.5% | [Si](C)(C)(C(C)(C)C)OCC=1C(=NC(=NC1)C1=CC=CC=C1)NC1=NNC(=C1)C1CC1 | C23H31N5OSi
